US04596816
Bromine (2.6 ml) was added dropwise to a solution of 3-(4-chlorobenzoyl)propionic acid (10.6 g) in ethyl ether (200 ml) under stirring. The ethyl ether was distilled off to give 3-bromo-3-(4-chlorobenzoyl)propionic acid. Acetamide (30 g) was added thereto, and the mixture was heated with stirring on an oil bath at 140° C. for an hour. Water was added and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the resulting crystalline precipitate was collected by filtration and washed with ethyl ether to give crystals of 4-(4-chlorophenyl)-2-methyloxazole-5-acetic acid, yield 3.9 g (31.1%). Recrystallization from ethanol gave needles, yield 3.5 g (27.9%), m.p. 215°-216° C.

reactant | Bromine | 2.6 ml | BrBr | Br2
reactant | 3-(4-chlorobenzoyl)propionic acid | 10.6 g | ClC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H9ClO3
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 3-bromo-3-(4-chlorobenzoyl)propionic acid | BrC(CC(=O)O)C(C1=CC=C(C=C1)Cl)=O | C10H8BrClO3
